US03957922
Pentachlorophenol - Aniline - Propylene Oxide
A 1-gallon autoclave was charged with 1862 grams of pentachlorophenol containing about 700 to 800 ppm of aluminum and iron compounds and 326 grams of aniline. After heating the mixture to 129°C., 1365 grams of propylene oxide was added and the mixture reacted to constant pressure. After cooling the mixture to 50°C., the contents were drained from the autoclave. The mixture was then stripped for 2 hours at 89° - 91°C./1 mm. Hg. and filtered through coarse paper. There were no solids. The polyol product weighed 3380 grams and had the following properties.

reactant | pentachlorophenol | 1862 grams | ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl | C6HCl5O
reactant | aluminum | [Al] | Al
reactant | aniline | 326 grams | NC1=CC=CC=C1 | C6H7N
reactant | propylene oxide | 1365 grams | C1C(C)O1 | C3H6O
catalyst | iron | [Fe] | Fe
product | Pentachlorophenol Aniline Propylene Oxide | ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl.NC1=CC=CC=C1.C1C(C)O1 | InChI=1S/C6HCl5O.C6H7N.C3H6O/c7-1-2(8)4(10)6(12)5(11)3(1)9;7-6-4-2-1-3-5-6;1-3-2-4-3/h12H;1-5H,7H2;3H,2H2,1H3
